US07714126B2
A solution of the above cyclohexyl-acetaldehyde (1.04 g, 8.25 mmol) and ethyl acetoacetate (0.873 mL, 6.85 mmol) in 300 mL ethanol was stirred in an ice bath as piperidine (7.3 uL, 73 umol) in 380 uL ethanol was added. The mixture was stirred in the ice bath for 5 hours and placed in a refrigerator for 16 hours. The reaction mixture was diluted with 50 mL ether and extracted with saturated sodium chloride (3×30 mL containing 2 drops AcOH). The brine layers were back-extracted with ether (2×40 mL). The combined ether layers were washed with brine (30 mL), dried over sodium sulfate, filtered and evaporated to give 2-acetyl-4-cyclohexyl-but-2-enoic acid ethyl ester (1.79 g).

reactant | cyclohexyl-acetaldehyde | 8.25 mmol, 1.04 g | C1(CCCCC1)CC=O | C8H14O
reactant | ethyl acetoacetate | 6.85 mmol, 0.873 mL | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 380 uL | C(C)O | C2H6O
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | piperidine | 73 umol, 7.3 uL | N1CCCCC1 | C5H11N
product | 2-acetyl-4-cyclohexyl-but-2-enoic acid ethyl ester | 1.79 g | C(C)OC(C(=CCC1CCCCC1)C(C)=O)=O | C14H22O3
